US07375134B2
Using the procedure mentioned in the Step 4 of Example 19, (2S)-2-{(S)-[(4-bromophenyl)-(2,4-difluorophenyl)-methyl]-amino}-4-methyl-pentanoic acid was coupled with amino acetonitrile to give (2S)-2-{(S)-[(4-bromophenyl)-(2,4-difluorophenyl)-methyl]-amino}-4-methylpentanoic acid cyanomethylamide as a white solid.

reactant | (2S)-2-{(S)-[(4-bromophenyl)-(2,4-difluorophenyl)-methyl]-amino}-4-methyl-pentanoic acid | BrC1=CC=C(C=C1)[C@@H](C1=C(C=C(C=C1)F)F)N[C@H](C(=O)O)CC(C)C | C19H20BrF2NO2
reactant | amino acetonitrile | NCC#N | C2H4N2
product | (2S)-2-{(S)-[(4-bromophenyl)-(2,4-difluorophenyl)-methyl]-amino}-4-methylpentanoic acid cyanomethylamide | C(#N)CNC([C@H](CC(C)C)N[C@H](C1=C(C=C(C=C1)F)F)C1=CC=C(C=C1)Br)=O | C21H22BrF2N3O
